US04246281
1-Phenyl-2a,3,4,5-tetrahydro-5-acenaphthenone
3-(3-Phenyl-1-indan)propionic acid (32 g, 0.12 mol) was dried by refluxing in C6H6 (200 ml) with removal of azeotroped H2O. The solution was added to a stirred suspension of PCl5 (29 g, 0.14 mol) in C6H6 (50 ml) and stirred for 1.5 hours. The solution was then added to a cooled, stirred suspension of AlCl3 (29 g) in C6H6 and stirring continued at room temperature for 3 hours. The mixture was poured into ice and HCl and extracted with Et2O. The Et2O was washed (NaHCO3 solution), dried (Na2SO4) and evaporated to give the title compound (25.7 g), m.p. 99° C. (MeOH).

reactant | H2O | O | H2O
reactant | PCl5 | 0.14 mol, 29 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | AlCl3 | 29 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
reactant | C6H6 | 200 ml | C1=CC=CC=C1 | C6H6
reactant | C6H6 | 50 ml | C1=CC=CC=C1 | C6H6
product | 1-Phenyl-2a,3,4,5-tetrahydro-5-acenaphthenone | 25.7 g | C1(=CC=CC=C1)C1CC2CCC(C3=CC=CC1=C23)=O | C18H16O
